US07947706B2
55.5 mg of solid beige-coloured 3-{4-[3-(3-methoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are prepared as described in Example 7 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide and 3-methoxyphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 3-methoxyphenyl isocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
product | 3-{4-[3-(3-methoxyphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | COC=1C=C(C=CC1)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O | C22H19N5O3
